US04894386
Using a similar procedure to that described in Example 49, part g, except starting from methyl 4-[5-(2-carboxypropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate, and using pyrrolidine instead of pentylamine, methyl 3-methoxy-4-[5-(2-methyl-3-pyrrolidino-3-oxopropyl)-1-propylindol-3-ylmethyl]benzoate was obtained (60%) as a colorless glass; partial NMR (250 MHz, DMSO-d6): 0.78(t, 3H, CH2CH3), 0.98(d, 3H, CH(CH3)), 1.4-1.8 (complex m, 6H), 2.6(m, 1H), 2.83(m, 4H), 3.3(complex m, 2H), 3.83(s, 3H, OCH3), 3.92(s, 3H, OCH3).

reactant | methyl 4-[5-(2-carboxypropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | C(=O)(O)C(CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C25H29NO5
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | methyl 3-methoxy-4-[5-(2-methyl-3-pyrrolidino-3-oxopropyl)-1-propylindol-3-ylmethyl]benzoate | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)CC(C(=O)N1CCCC1)C)CCC | C29H36N2O4
